US06673795B2
A solution of 56 mg (0.55 mmol) of 2,2,2-trifluoroethanol in 5 ml of tetrahydrofurane was cooled to 0° C. and treated under an argon atmosphere with 23 mg (0.52 mmol) of sodium hydride (55% dispersion in oil). The mixture was kept at 0° C. during 10 min, then a solution of 200 mg (0.58 mmol) of 4-chloro-2-methylsulfanyl-6-(4-phenyl-piperidin-1-yl)-pyrimidine-5-carbonitrile in 5 ml of tetrahydrofurane was added and, thereupon, the mixture was warmed to room temperature and stirring continued during 36 hours. For the working-up, the reaction mixture was evaporated and the residue obtained was directly chromatographed on silica gel using a 9:1 mixture of hexane and ethyl acetate as the eluent yielding 142 mg (0.35 mmol, 60% of theory) of the 2-methylsulfanyl-4-(4-phenyl-piperidin-1-yl)-6-(2,2,2-trifluoro-ethoxy)-pyrimidine-5-carbonitrile as an amorphous, white solid; MS: [M+H]+=409.

reactant | 2,2,2-trifluoroethanol | 0.55 mmol, 56 mg | FC(CO)(F)F | C2H3F3O
reactant | sodium hydride | 0.52 mmol, 23 mg | [H-].[Na+]
reactant | 4-chloro-2-methylsulfanyl-6-(4-phenyl-piperidin-1-yl)-pyrimidine-5-carbonitrile | 0.58 mmol, 200 mg | ClC1=NC(=NC(=C1C#N)N1CCC(CC1)C1=CC=CC=C1)SC | C17H17ClN4S
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
product | 2-methylsulfanyl-4-(4-phenyl-piperidin-1-yl)-6-(2,2,2-trifluoro-ethoxy)-pyrimidine-5-carbonitrile | 0.35 mmol, 142 mg, 60% | CSC1=NC(=C(C(=N1)N1CCC(CC1)C1=CC=CC=C1)C#N)OCC(F)(F)F | C19H19F3N4OS
